US06544985B2
{5-Dimethylamino-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-4-phenylethynyl-phenyl}-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J2) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester (Example K1) according to the general procedure M. Obtained as an orange solid (148 mg).

reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester | C(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C13H13N3O3
product | {5-Dimethylamino-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-4-phenylethynyl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C#CC1=CC=CC=C1)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C32H32N6O4
